US09212190B2
A solution of tert-butyl N-(4-hydroxycyclohexyl)carbamate (181 mg, 0.84 mmol, 1.40 equiv) in 8 mL of distilled THF was added sodium hydride (60% dispersion in mineral oil, 72 mg, 1.80 mmol, 3.00 equiv) at 0° C. and stirred for another 30 min under nitrogen. Then (12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene (230 mg, 0.60 mmol, 1.00 equiv) was added and stirred overnight at room temperature. The reaction was then quenched with saturated aqueous NH4Cl, extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:4) to give 240 mg (71%) of tert-butyl N-(4-[[(12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate as a yellow oil. MS: m/z 562 [M+H]+.

reactant | tert-butyl N-(4-hydroxycyclohexyl)carbamate | 0.84 mmol, 181 mg, 1.40 equiv | OC1CCC(CC1)NC(OC(C)(C)C)=O | C11H21NO3
reactant | sodium hydride | 1.80 mmol, 72 mg, 3.00 equiv | [H-].[Na+]
reactant | (12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-3-chloro-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraene | 0.60 mmol, 230 mg, 1.00 equiv | [Si](C)(C)(C(C)(C)C)OCC[C@H]1CCC=2SC=3N=CN=C(C3C2C1)Cl | C18H27ClN2OSSi
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | tert-butyl N-(4-[[(12S)-12-[2-[(tert-butyldimethylsilyl)oxy]ethyl]-8-thia-4,6-diazatricyclo[7.4.0.0[2,7]]trideca-1(9),2(7),3,5-tetraen-3-yl]oxy]cyclohexyl)carbamate | 240 mg, 71% | [Si](C)(C)(C(C)(C)C)OCC[C@H]1CCC=2SC=3N=CN=C(C3C2C1)OC1CCC(CC1)NC(OC(C)(C)C)=O | C29H47N3O4SSi
